US08563565B2
(2) Synthesis of ethyl 5-(4-bromo-2-nitrophenyl)-1-(1,4-dioxepan-6-yl)-1H-pyrazole-4-carboxylate
To a solution of (Z)-ethyl 2-(4-bromo-2-nitrobenzoyl)-3-(dimethylamino)acrylate (642 mg) in acetonitrile (8 mL) was added a solution of (1,4-dioxepan-6-yl)hydrazine hydrochloride (341 mg) obtained in Preparation Example 16 in water (2 mL) at room temperature. The reaction mixture was stirred at room temperature overnight and further stirred at 50° C. for 9.5 hours. The reaction mixture was returned to room temperature and partitioned by adding ethyl acetate and water. The aqueous layer was extracted again with ethyl acetate. The combined organic layers were sequentially washed with the saturated aqueous sodium bicarbonate solution and brine, and dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/heptane, 20 to 33%) to give the title compound (408 mg).

reactant | (Z)-ethyl 2-(4-bromo-2-nitrobenzoyl)-3-(dimethylamino)acrylate | 642 mg | BrC1=CC(=C(C(=O)/C(/C(=O)OCC)=C/N(C)C)C=C1)[N+](=O)[O-] | C14H15BrN2O5
reactant | (1,4-dioxepan-6-yl)hydrazine hydrochloride | 341 mg | Cl.O1CCOCC(C1)NN
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | water | 2 mL | O | H2O
product | ethyl 5-(4-bromo-2-nitrophenyl)-1-(1,4-dioxepan-6-yl)-1H-pyrazole-4-carboxylate | 408 mg | BrC1=CC(=C(C=C1)C1=C(C=NN1C1COCCOC1)C(=O)OCC)[N+](=O)[O-] | C17H18BrN3O6
